US04178460
Preparation of α-Isopropyl-4-difluoromethoxyphenylacetic acid
Into an 80° C. magnetically stirred mixture of 10.00 g (0.0515 mol) of α-isopropyl-4-hydroxyphenylacetic acid, 65 ml of dioxane, 19.08 g (18.56 g real, 0.464 mol) of sodium hydroxide, and 30 ml of water is bubbled 46 g (0.532 mol) of chlorodifluoromethane over a period of 4 hours. The reaction mixture is poured into 250 ml of ice water and the resulting mixture is washed with ether, acidified with concentrated hydrochloric acid to pH 3, and then extracted with 200 ml of ether. The ether solution is washed once with 100 ml of water, dried with sodium sulfate, filtered, and then evaporated to give a white paste. A mixture of hexane and methylene chloride is added and the resulting mixture is filtered to remove the solid which is the starting material. The filtrate is evaporated to give 5.41 g of a clear brown oil. It is estimated that the product was at least 85% pure by nmr. NMR (CDCl3 -d5 pyridine), δ 7.43 (d, J=8.2 Hz, 2H), δ 7.08 (d, J=8.2 Hz, 2H), δ 6.57 (t, J=74.3 Hz, 1H), δ 3.63 (s, imp.), δ 3.25 (d, J=10 Hz, 1H), δ 2.37 (m, 1H), δ 1.19 (d, J=6.5 Hz, 3H), δ 0.78 (d, J=6.5 Hz, 3H), δ 13.82 (s, 1H).

reactant | α-isopropyl-4-hydroxyphenylacetic acid | 0.0515 mol, 10.00 g | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)O | C11H14O3
reactant | dioxane | 65 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 0.464 mol, 19.08 g | [OH-].[Na+]
reactant | chlorodifluoromethane | 0.532 mol, 46 g | ClC(F)F | CHClF2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | water | 30 ml | O | H2O
product | α-Isopropyl-4-difluoromethoxyphenylacetic acid | 5.41 g | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)OC(F)F | C12H14F2O3
